US04405552
EXAMPLE 47: 1-(2,6-DIFLUOROBENZOYL)-3-(6-CHLORO-5-(4-CHLOROPHENYL)-2-PYRIDYL)UREA
6-Chloro-5-(4-chlorophenyl)-2-pyridylamine (0.3 gram) was dissolved in 25 ml acetonitrile and treated with 2,6-difluorobenzoyl isocyanate (0.5 gram) under nitrogen at room temperature. A precipitate formed almost immediately and after about three hours stirring, the solid was collected and washed with acetonitrile, yield 0.36 gram, m.p. 237°-241° C.

reactant | 6-Chloro-5-(4-chlorophenyl)-2-pyridylamine | 0.3 gram | ClC1=C(C=CC(=N1)N)C1=CC=C(C=C1)Cl | C11H8Cl2N2
reactant | 2,6-difluorobenzoyl isocyanate | 0.5 gram | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-(2,6-DIFLUOROBENZOYL)-3-(6-CHLORO-5-(4-CHLOROPHENYL)-2-PYRIDYL)UREA | FC1=C(C(=O)NC(=O)NC2=NC(=C(C=C2)C2=CC=C(C=C2)Cl)Cl)C(=CC=C1)F | C19H11Cl2F2N3O2
